data/rdb19/train.csv
rxn,smiles,ea
3298,[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])([C:17]([H:18])[H:19])[H:25])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:13]([C:14]([C:15]([C:16]([H:26])([H:27])[H:28])=[C:17]([H:18])[H:19])([H:23])[H:24])([H:20])([H:21])[H:22].[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:25])([H:5])([H:6])[H:7],34.875454965396784
5325,[C:17]([C:18]([C:19]([H:20])[H:21])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:28])([H:29])[H:30].[C:1](=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10]>>[C:1]([C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])([H:11])[C:19]([C:18]([C:17]([H:28])([H:29])[H:30])([c:22]1[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]([H:35])[c:27]1[H:36])[H:31])([H:20])[H:21])([H:9])[H:10],18.09735972469207
4290,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([O:4][H:26])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10],32.62302669993369
4966,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][O:17][C:16]([C:15]([H:21])([H:22])[H:23])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24],45.80405634973431
5522,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])[H:10])([H:7])([H:8])[H:9],14.157654594106134
2350,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[C:11]([H:16])[H:17])[H:15])([H:12])([H:13])[H:14]>>[C:1]([C:2]([H:3])([H:4])[C:8]([H:12])([H:13])[H:14])([H:5])([H:6])[H:7].[O:9][C:10](=[C:11]([H:16])[H:17])[H:15],48.51811772881774
2257,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([C:10]([C:11]([H:19])([H:20])[H:21])([C:12]([H:22])([H:23])[H:24])[C:13]([H:25])([H:26])[H:27])([H:17])[H:18])([H:14])([H:15])[H:16]>>[C:12]([H:22])([H:23])[H:24].[C:1]([C:2]([H:3])([H:4])[C:10]([C:9]([C:8]([H:14])([H:15])[H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[C:13]([H:25])([H:26])[H:27])([H:5])([H:6])[H:7],84.05203239282127
5503,[C:13]([C:14]([C:15]([H:16])[H:17])([O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:13]([C:14](=[C:15]([H:16])[H:17])[O:18][C:19](=[O:20])[C:21]([H:26])([H:27])[H:28])([H:22])([H:23])[H:24].[C:1]([C:2](=[O:3])[O:4][C:5]([C:6]([H:11])([H:12])[H:25])[H:10])([H:7])([H:8])[H:9],35.64063232240733
2249,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9]([O:10][C:11](=[O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:9]([C:8]([H:15])([H:16])[H:17])[H:19].[O:10]([C:11](=[O:12])[C:13](=[C:14]([H:21])[H:22])[H:20])[H:18],71.32172622857615
920,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]=[O:6])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[N:7]([H:17])([H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])([H:22])[O:23][C:24](=[O:25])[C:26]([H:32])([H:33])[H:34]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:18])[C:21]([C:20]([C:19]([H:27])([H:28])[H:29])([H:30])[H:31])[H:22])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[H:17][O:25][C:24](=[O:23])[C:26]([H:32])([H:33])[H:34],40.77844718279084
210,[C:12]([C:13](=[O:14])[O:15][C:16](=[C:17]([H:22])[H:23])[H:21])([H:18])([H:19])[H:20].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]#[N:5])[C:16]([O:15][C:13]([C:12]([H:18])([H:19])[H:20])=[O:14])([C:17]([H:22])[H:23])[H:21])([H:6])([H:7])[H:8],21.663973030925263
1816,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[N:7]([H:13])[H:14])[C:19]1([C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])[C:20]([H:34])[C:21]([H:35])=[C:22]([H:36])[C:23]([H:37])=[C:24]1[H:38])([H:11])[H:12])([H:8])([H:9])[H:10],27.11122567584971
